US04552569
Approximately 360 g of N-oleyl-1,3-propylenediamine (commercially obtained as Armak Duomeen O) and 150 g of toluene were charged to a 2 liter reactor equipped with heater, agitator, Dean-Stark tube and condenser with provision for blanketing the vapor space with nitrogen. Slowly, over a period of about 10 minutes, approximately 52 g of 88% formic acid were added with agitation. The reaction mixture was slowly heated to about 160° C. over a period of about 5 hours until water removal by azeotropic distillation ceased. The solvent was removed by vacuum distillation at about 160° C. and the mixture was cooled to about 60° C.

reactant | Duomeen O | CCCCCCCCCCCCCCCCCCNCCCN | C21H46N2
solvent | toluene | 150 g | C1(=CC=CC=C1)C | C7H8
product | N-oleyl-1,3-propylenediamine | 360 g | C(CCCCCCC\C=C/CCCCCCCC)NCCCN | C21H44N2
